US05399568
1-((9S,10S)-2-Chloro-9,10-dihydro-9,10-methanoanthracen-9-ylmethyl)-4-(2-hydroxy-3-pyridylmethyl)piperidine.
A solution of 1-((9S,10S)-2-chloro-9,10-dihydro-9,10-methanoanthracen-9-ylcarbonyl)-4-(2-methoxy-3-pyridylmethyl)piperidine (1.80 g. 3.92 mmol) in tetrahydrofuran (50 mL) was treated with boron trifluoride etherate (612 mg, 4.31 mmol) and borane- tetrahydrofuran (14.9 mL of a 1.0M solution, 14.9 mmol). The resulting solution was heated to reflux for 3 h. The mixture was then concentrated on a rotary evaporator to give a colorless residue. The residue was dissolved in concentrated hydrochloric acid (50 mL, 12N) and heated to reflux for 3 h. The solution was concentrated to dryness on a rotary evaporator to give a glassy residue. This residue was dissolved in methanol (100 mL) and concentrated to dryness on a rotary evaporator (3X) to give a white foam. This foam was dissolved in methanol (5 mL) and added to rapidly stirred diethyl ether (200 mL) to give a white precipitate which was collected and washed with diethyl ether to give the hydrochloride salt of the title compound (1.3 g, 2.60 mmol, 66%) as an off-white powder, mp 211°-215° C.

reactant | 1-((9S,10S)-2-chloro-9,10-dihydro-9,10-methanoanthracen-9-ylcarbonyl)-4-(2-methoxy-3-pyridylmethyl)piperidine | 3.92 mmol, 1.80 g | ClC1=CC=2[C@]3(C4=CC=CC=C4[C@@H](C2C=C1)C3)C(=O)N3CCC(CC3)CC=3C(=NC=CC3)OC | C28H27ClN2O2
reactant | boron trifluoride etherate | 4.31 mmol, 612 mg | B(F)(F)F.CCOCC
reactant | borane- tetrahydrofuran | O1CCCC1.B
reactant | diethyl ether | 200 mL | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | hydrochloric acid | 12N, 50 mL | Cl | ClH
solvent | methanol | 100 mL | CO | CH4O
solvent | methanol | 5 mL | CO | CH4O
product | 1-((9S,10S)-2-Chloro-9,10-dihydro-9,10-methanoanthracen-9-ylmethyl)-4-(2-hydroxy-3-pyridylmethyl)piperidine | 2.60 mmol, 1.3 g, 66% | ClC1=CC=2[C@]3(C4=CC=CC=C4[C@@H](C2C=C1)C3)CN3CCC(CC3)CC=3C(=NC=CC3)O | C27H27ClN2O
